US06861440B2
To a solution of 2-(5-bromo-4-oxo-pentyl)-isoindole-1,3-dione [CAS 41306-64-3](12.4 g) in abs. DMF (50 ml) was added benzamidine 85% (5.65 g) and potassium carbonate (11.05 g). The reaction mixture was stirred at 80° C. for 4 h, concentrated under high vacuum, quenched with water and extracted with ethyl acetate. The organic phase was washed with ice/water and brine, dried over magnesium sulphate and concentrated. The residue was purified by chromatography on silica gel using methylene chloride/methanol 2 and 5% as eluent. The product fractions were combined and evaporated to dryness to obtain 2-[3-(2-phenyl-1H-imidazol-4-yl)-propyl]-isoindole-1,3-dione (8.95 g) as a light yellow foam.

reactant | 2-(5-bromo-4-oxo-pentyl)-isoindole-1,3-dione | 12.4 g | BrCC(CCCN1C(C2=CC=CC=C2C1=O)=O)=O | C13H12BrNO3
reactant | benzamidine | 5.65 g | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | potassium carbonate | 11.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-[3-(2-phenyl-1H-imidazol-4-yl)-propyl]-isoindole-1,3-dione | 8.95 g | C1(=CC=CC=C1)C=1NC=C(N1)CCCN1C(C2=CC=CC=C2C1=O)=O | C20H17N3O2
